US06559145B2
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-4H-1,2-benzoxazine-3-carboxamide [AU. 1].
Under an argon atmosphere, a mixture of N-(4-chlorobenzyl)-6-iodo-4-oxo-4H-1,2-benzoxazine-3-carboxamide (Preparation 18, 0.117 g), dichlorobis (triphenyl-phosphine)palladium (12.8 mg), copper(I) iodide (3.7 mg), and triethylamine (1 mL) in THF (6 mL) is cooled in an ice-brine bath. A solution of propargyl alcohol (32 mg) in THF (3 mL) is added slowly via a syringe to the reaction mixture. The reaction mixture is stirred at ice-brine temperature for 2 h and then allowed to warm to room temperature overnight. The mixture is concentrated in vacuo and the residue is flash chromatographed on silica gel (230-400 mesh, 8 g), eluting with 1% methanol in dichloromethane, pooling desirable fractions and concentrating in vacuo provides the title compound as a pale yellow solid. Physical characteristics: m.p. 117-120° C.: 1H NMR (400 MHz, DMSO-d6) δ 4.35, 4.50, 5.55, 7.42, 7.77, 7.97, 9.4; 13C NMR (DMSO-d6) δ 49.2, 49.3, 67.8, 79.4, 81.8, 91.8, 117.5, 119.8, 120.2, 126.6, 128.3, 129.0, 131.6, 137.2, 138.8, 155.2, 159.2, 160.3, 165.2; MS (FAB) m/z 369 (MH+, 99); HRMS (FAB) m/z 369.0645 (C19H13ClN2O4+H).

reactant | N-(4-chlorobenzyl)-6-iodo-4-oxo-4H-1,2-benzoxazine-3-carboxamide | 0.117 g | ClC1=CC=C(CNC(=O)C2=NOC3=C(C2=O)C=C(C=C3)I)C=C1 | C16H10ClIN2O3
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | propargyl alcohol | 32 mg | C(C#C)O | C3H4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis (triphenyl-phosphine)palladium | 12.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 3.7 mg | [Cu]I
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-4H-1,2-benzoxazine-3-carboxamide | ClC1=CC=C(CNC(=O)C2=NOC3=C(C2=O)C=C(C=C3)C#CCO)C=C1 | C19H13ClN2O4
